US04125729
Methyl Bromo[p-(phenoxy)phenyl]acetate
A mixture of 22.68 g of methyl [p-(phenoxy)phenyl]acetate, 17.195 g of N-bromosuccinimide and 20 drops of carbon tetrachloride saturated with HBr in 300 ml of carbon tetrachloride is heated at reflux for 28 hours. After cooling, the mixture is filtered through aluminum oxide, concentrated and distilled at 0.15 mm to give the product as a colorless oil (bp 162.5°-165° C).

reactant | methyl [p-(phenoxy)phenyl]acetate | 22.68 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C15H14O3
reactant | N-bromosuccinimide | 17.195 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HBr | Br | BrH
catalyst | carbon tetrachloride | 20 drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl Bromo[p-(phenoxy)phenyl]acetate | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C15H13BrO3
